US07893093B2
To a solution of 2(R)-[2,2,3,3,3-pentafluoro-1-(S)-(4-fluorophenyl)propylamino]-3-tritylsulfanylpropionic acid (6.92 g, 12 mmol) in dichloromethane (10 mL), triethylsilane (3.73 mL, 23.4 mmol) and TFA (3.61 mL, 46.9 mmol) were added at room temperature. The reaction mixture was stirred for 4 h. The solvent and volatiles were evaporated on rotovap, benzene was added to the residue and the mixture was evaporated again to ensure complete removal of excess TFA. The residue was dissolved in 1 N NaOH (50 mL) and extracted with hexanes. To the resulting solution, P(CH2CH2CO2H)3.HCl (0.343 g, 1.2 mmol) was added, and a 0.2 M stock solution of 2(R)-[2,2,3,3,3-pentafluoro-1-(S)-(4-fluorophenyl)propylamino]-3-mercaptopropionic acid was obtained.

reactant | 2(R)-[2,2,3,3,3-pentafluoro-1-(S)-(4-fluorophenyl)propylamino]-3-tritylsulfanylpropionic acid | 12 mmol, 6.92 g | FC([C@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C(F)(F)F)F | C31H25F6NO2S
reactant | triethylsilane | 23.4 mmol, 3.73 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 46.9 mmol, 3.61 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | P(CH2CH2CO2H)3.HCl | 1.2 mmol, 0.343 g | P(CCC(=O)O)(CCC(=O)O)CCC(=O)O.Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2(R)-[2,2,3,3,3-pentafluoro-1-(S)-(4-fluorophenyl)propylamino]-3-mercaptopropionic acid | FC([C@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CS)(C(F)(F)F)F | C12H11F6NO2S
